US08304419B2
3-{[3-(aminomethyl)-6-chloro-2-fluorophenyl]oxy}-5-bromobenzonitrile (0.355 g, 0.998 mmol) was combined with dicyanozinc (0.100 g, 0.852 mmol) and tetrakis(triphenylphosphine)palladium(0) (0.115 g, 0.100 mmol) in DMF (3 mL) and heated at 120° C. for 25 min in a microwave reactor under an inert atmosphere. The reaction mixture was diluted with EtOAc, washed twice with saturated aqueous NaHCO3 and twice with water, dried over MgSO4, filtered and concentrated to dryness. The residue was dissolved in CH3OH and gravity filtered through a StratoSpheres™ PL-Thiol MP SPE+ cartridge. The filtrate was concentrated to dryness and purified on 40 g silica gel eluted successively with EtOAc and 10% CH3OH/DCM to give 5-{[3-(aminomethyl)-6-chloro-2-fluorophenyl]oxy}-1,3-benzenedicarbonitrile (0.200 g, 0.663 mmol, 66.4% yield) as a white solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 8.22 (s, 1H), 7.91 (s, 2H), 7.46-7.57 (m, 2H), 3.77 (s, 2H), 1.90 (br. s., 2H). LC-MS (ES+) m/z 302.27, 304.19 [M+H].

reactant | 3-{[3-(aminomethyl)-6-chloro-2-fluorophenyl]oxy}-5-bromobenzonitrile | 0.998 mmol, 0.355 g | NCC=1C(=C(C(=CC1)Cl)OC=1C=C(C#N)C=C(C1)Br)F | C14H9BrClFN2O
reactant | dicyanozinc | 0.852 mmol, 0.100 g | C(#N)[Zn]C#N
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.100 mmol, 0.115 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-{[3-(aminomethyl)-6-chloro-2-fluorophenyl]oxy}-1,3-benzenedicarbonitrile | 0.663 mmol, 0.200 g, 66.4% yield | NCC=1C(=C(C(=CC1)Cl)OC=1C=C(C=C(C1)C#N)C#N)F | C15H9ClFN3O
